US07094780B1
Synthesis of octahydropyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester
2-Benzyloctahydropyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester (Example A26, 24.98 g, 78.8 mmol) in 400 mL of methanol is treated with 2.5 g of 20% Pd/C and shaken for 20.5 hours under 50 PSI of hydrogen. The solution is filtered and concentrated to afford 17.8 g of the title compound as a solid. MS APCI: m/z 228 (MH+).

reactant | 2-Benzyloctahydropyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester | 78.8 mmol, 24.98 g | C(C)(C)(C)OC(=O)N1CC2C(CC1)CN(C2)CC2=CC=CC=C2 | C19H28N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 mL | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | octahydropyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester | 17.8 g | C(C)(C)(C)OC(=O)N1CC2C(CC1)CNC2 | C12H22N2O2
